US05752984
5) 5,6-Dimethyl-1,2,3,4-tetrahydroquinoxaline
5.3 g (0.034 mole) of 5,6-dimethylquinoxaline were dissolved in 200 ml of ethanol and, after the addition of 1 g of Raney nickel, the resulting solution was hydrogenated for 2 h at room temperature/normal pressure. After filtration, the product was concentrated to dryness and recrystallized from methyl-t-butyl ether.

reactant | 5,6-dimethylquinoxaline | 0.034 mole, 5.3 g | CC1=C2N=CC=NC2=CC=C1C | C10H10N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Raney nickel | 1 g | [Ni] | Ni
product | 5,6-Dimethyl-1,2,3,4-tetrahydroquinoxaline | CC1=C2NCCNC2=CC=C1C | C10H14N2
